US06875765B2
1-(2-Methyl-naphthalen-1-yl)-propan-2-ol (1.2 g, 6.0 mmol) was dissolved in freshly distilled THF (15 mL) in a round bottom flask fitted with a reflux condenser. Potassium tert-butoxide (739 mg, 6.60 mmol) was added and the reaction was stirred at room temperature for 30 minutes. 2-fluoronitrobenzene (0.70 mL, 6.60 mmol) was added via syringe. The reaction was stirred at vigorous reflux for 18 hours. The reaction mixture was allowed to cool to room temperature and then was concentrated. The residue was diluted with saturated aqueous NaHCO3 and was extracted three times with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered through celite, and concentrated. The crude product was purified by flash chromatography (SiO2, 20% CH2Cl2-hexanes) to give 2-methyl-1-[2-(2-nitro-phenoxy)-propyl]-naphthalene (1.51 g, 4.72 mmol) in 79% yield as an oil that solidified on standing. 1H NMR (300 MHz) CDCl3 δ 8.03 (d, J=8.4 Hz, 1H), 7.79 (d, J=8.8 Hz, 1H), 7.67 (m, 2H), 7.49 (m, 1H), 7.40 (m, 1H), 7.29 (m, 2H), 6.90 (m, 1H), 6.75 (d, J=8.6 Hz, 1H), 4.93 (m, 1H), 3.67 (dd, J=7.5, 14.5 Hz, 1H), 3.46 (dd, J=5.7, 14.4 Hz, 1H), 2.56 (s, 3H), 1.46 (d, J=6.0 Hz, 3H).

reactant | 1-(2-Methyl-naphthalen-1-yl)-propan-2-ol | 6.0 mmol, 1.2 g | CC1=C(C2=CC=CC=C2C=C1)CC(C)O | C14H16O
reactant | Potassium tert-butoxide | 6.60 mmol, 739 mg | CC(C)([O-])C.[K+]
reactant | 2-fluoronitrobenzene | 6.60 mmol, 0.70 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-methyl-1-[2-(2-nitro-phenoxy)-propyl]-naphthalene | 4.72 mmol, 1.51 g, 79% yield | CC1=C(C2=CC=CC=C2C=C1)CC(C)OC1=C(C=CC=C1)[N+](=O)[O-] | C20H19NO3
